US05536701
1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-ol (9.8 g, 0.059 mole) was added in portions to a mixture of phosphorus oxychloride (9.2 g, 0.060 mole) and N,N-dimethylformamide (10 mL, 0.12 mole) with cooling to control the reaction temperature near 40° C. The mixture was then heated and held at 90°-100° C. for one hour and poured while still warm (50° C.) into a mixture of methanol and water. The pH was adjusted to basic with 10% sodium hydroxide. The aqueous solution was washed with ether, then adjusted to acidic pH with 37% hydrochloric acid, and extracted with a mixture of ether and ethyl acetate. The extracts were dried with magnesium sulfate, filtered and concentrated in vacuo to give 5-hydroxy-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxaldehyde (9.4 g, 82% yield) which was recrystallized from ethyl acetate/cyclohexane to give a white solid, mp=116°-118° C.

reactant | 1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-ol | 0.059 mole, 9.8 g | CN1N=C(C=C1O)C(F)(F)F | C5H5F3N2O
reactant | phosphorus oxychloride | 0.060 mole, 9.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 0.12 mole, 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 5-hydroxy-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxaldehyde | 9.4 g, 82% yield | OC1=C(C(=NN1C)C(F)(F)F)C=O | C6H5F3N2O2
